US04072685
A solution of 4.8 g of N-isopropyl-3-(3',4'-dimethoxyphenyl)-piperidine in 48 ml of 66% hydrobromic acid was refluxed for an hour and was evaporated to dryness. The residue was crystallized from isopropanol and then acetone to obtain 4.2 g of N-isopropyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide melting at 182° C.

reactant | N-isopropyl-3-(3',4'-dimethoxyphenyl)-piperidine | 4.8 g | C(C)(C)N1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C16H25NO2
reactant | hydrobromic acid | 48 ml | Br | BrH
product | N-isopropyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide | 4.2 g | Br.C(C)(C)N1CC(CCC1)C1=CC(=C(C=C1)O)O | InChI=1S/C14H21NO2.BrH/c1-10(2)15-7-3-4-12(9-15)11-5-6-13(16)14(17)8-11;/h5-6,8,10,12,16-17H,3-4,7,9H2,1-2H3;1H
